US08431596B2
N-[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-2-(4-methyl-piperazin-1-yl)-acetamide (WW-168)
To a solution of 2-chloro-N-[5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-acetamide (0.1 g, 0.29 mmol) in dichloromethane (2 mL), triethylamine (0.061 mL, 0.43 mmol) and N-methylpiperazine (0.036 mL, 0.32 mmol) were added successively and the mixture was stirred overnight. The solvent was removed under reduced pressure and the crude then purified by prep LCMS. LCMS Method: 2, RT=2.19 min, MI=409 [M+1], NMR 1H (DMSO): 2.29 (s, 3H), 2.48-2.50 (m, 4H), 2.53-2.58 (m, 4H), 3.25 (brs, 2H), 4.33 (brs, 4H), 7.03 (d, 1H), 7.25 (dd, 1H), 7.47 (dd, 1H), 7.62-7.71 (m, 3H).

reactant | 2-chloro-N-[5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-acetamide | 0.29 mmol, 0.1 g | ClCC(=O)NC1=NN2C(C=CC=C2C2=CC3=C(OCCO3)C=C2)=N1 | C16H13ClN4O3
reactant | triethylamine | 0.43 mmol, 0.061 mL | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | 0.32 mmol, 0.036 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[5-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-2-(4-methyl-piperazin-1-yl)-acetamide | O1CCOC2=C1C=CC(=C2)C2=CC=CC=1N2N=C(N1)NC(CN1CCN(CC1)C)=O | C21H24N6O3
